US07238696B2
Preparation of 1-Benzyl-4-{4-nitro-3-[(phenylsulfonyl)methyl]phenyl}piperazine
A stirred solution of 1-benzyl-4-(4-nitrophenyl)piperazine (5.95 g, 20.0 mmol) and chloromethylphenylsulfone (3.82 g, 20.0 mmol) in dry THF under nitrogen at −60° C. is treated with 1.0M KO-t-Bu in THF (44.0 mL, 44.0 mmol), warmed to −20° C. over a 1 h period, quenched with acetic acid and treated sequentially with water, saturated aqueous NaHCO3 and ether. The phases are separated and the aqueous phase is extracted with ether. The combined ethers are washed with water and brine, dried over MgSO4 and concentrated in vacuo. The resultant residue is chromatographed (silica gel, 1:1 and 1:0 ethyl acetate:hexanes as eluent) to give the title compound as a yellow solid, 7.52 g (83% yield), mp 145–146° C., characterized by NMR and mass spectral analyses.

reactant | 1-benzyl-4-(4-nitrophenyl)piperazine | 20.0 mmol, 5.95 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H19N3O2
reactant | chloromethylphenylsulfone | 20.0 mmol, 3.82 g | ClCS(=O)(=O)C1=CC=CC=C1 | C7H7ClO2S
reactant | KO-t-Bu | 1.0M | O([K])C(C)(C)C
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 44.0 mmol, 44.0 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-4-{4-nitro-3-[(phenylsulfonyl)methyl]phenyl}piperazine | 83% yield | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])CS(=O)(=O)C1=CC=CC=C1 | C24H25N3O4S
